US07968563B2
A solution of (4-amino-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl)methanol (1.95 g, 7.85 mmol) and thionyl chloride (1.72 mL, 23.6 mmol) in chloroform (80 mL) was heated at reflux for 2 hours. The solvent was removed under reduced pressure and the residue triturated with chloroform to give 1.53 g of 2-(chloromethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride as an off-white powder.

reactant | (4-amino-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-2-yl)methanol | 7.85 mmol, 1.95 g | NC1=NC(=C(C2=C1N=C(N2CC(C)C)CO)C)C | C13H20N4O
reactant | thionyl chloride | 23.6 mmol, 1.72 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(chloromethyl)-1-isobutyl-6,7-dimethyl-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride | 1.53 g | Cl.ClCC=1N(C2=C(C(=NC(=C2C)C)N)N1)CC(C)C | InChI=1S/C13H19ClN4.ClH/c1-7(2)6-18-10(5-14)17-11-12(18)8(3)9(4)16-13(11)15;/h7H,5-6H2,1-4H3,(H2,15,16);1H
